US06933388B2
2-Cyano-3-(5′-ethoxy-2′-methoxycarbonyl-4′-nitrophenyl)amino-2-propenoic acid t-butyl ester
A 3-L round-bottomed flask under N2 equipped with an overhead stirrer, a condenser and a thermocouple is charged with 2-amino-4-ethoxy-5-nitrobenzoic acid methyl ester (100 g, 0.416 mol) and N,N-dimethylformamide dimethyl acetal (59.5 g, 0.499 mol) and t-butanol (800 mL). The reaction mixture is heated to reflux for 1.5 h. The reaction mixture is cooled to 22 to 35° C. and the t-butylcyanoacetate (117 g, 0.832 mol) added. The reaction mixture is stirred at 20 to 30° C. for 2 h. The precipitate is collected by suction filtration, washed with heptane (500 mL), then dried to constant weight under reduced pressure (50 mm Hg)) at 45° C. overnight to provide the title compound as a off-white solid (162.9 g, 95% yield, >95% purity by HPLC). 1H NMR (300 MHz, DMSO-d6): 12.7 (d, J=12.9 Hz, 1H), 8.77 (d, J=12.9 Hz, 1H), 8.50 (s, 1H), 7.47 (s, 1H), 4.37 (q, J=7 Hz, 2H), 3.91 (s, 3H), 1.52 (s, 9H), 1.40 (t, J=7 Hz, 3H).

reactant | 2-amino-4-ethoxy-5-nitrobenzoic acid methyl ester | 0.416 mol, 100 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OCC)N)=O | C10H12N2O5
reactant | N,N-dimethylformamide dimethyl acetal | 0.499 mol, 59.5 g | COC(N(C)C)OC | C5H13NO2
reactant | t-butylcyanoacetate | 0.832 mol, 117 g | C(C)(C)(C)OC(CC#N)=O | C7H11NO2
solvent | t-butanol | 800 mL | C(C)(C)(C)O | C4H10O
product | 2-Cyano-3-(5′-ethoxy-2′-methoxycarbonyl-4′-nitrophenyl)amino-2-propenoic acid t-butyl ester | 162.9 g, 95% yield | C(C)(C)(C)OC(C(=CNC1=C(C=C(C(=C1)OCC)[N+](=O)[O-])C(=O)OC)C#N)=O | C18H21N3O7
